US08357694B2
(R)-6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine
This was synthesized by using (R,E)-2-((dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one and guanidine hydrochloride as described in general procedure 1 to afford the desired product as hydrochloride salt. M.p.=154-155° C. 1H NMR 400 MHz (DMSO-d6) δ 8.26-8.24 (m, 1 H), 8.08 (s, 1 H), 7.46-7.39 (m, 2 H), 7.31-7.20 (m, 2 H), 7.05-7.00 (m, 2 H), 6.80-6.76 (m, 1 H), 6.51 (s, 2 H), 4.59 (t, J=6.8 Hz, 1 H), 3.11-3.2.96 (m, 2 H). LCMS m/e 292 (M+H).

reactant | (R,E)-2-((dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one | CN(C)\C=C/1\C(C2=CC=CC=C2[C@@H](C1)C1=C(C=CC=C1)F)=O | C19H18FNO
reactant | guanidine hydrochloride | Cl.NC(=N)N
product | (R)-6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | FC1=C(C=CC=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)N | C18H14FN3
